US08735425B2
(24a) 6-(4-nitro-phenoxycarbonylamino)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester
To a dichloromethane (10 mL) solution of 4-nitrophenyl chloroformate (812 mg), a dichloromethane (10 mL) solution of 6-amino-2N-Boc-1,2,3,4-tetrahydroisoquinoline (1.00 g) and pyridine (0.33 mL) was gradually added at 0° C. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 2 hours and then concentrated. The residue was vigorously stirred in a mixed solution of diisopropyl ether and water (diisopropyl ether/water). The precipitate was collected by filtration and dried under reduced pressure to obtain the title compound (1.46 g, 88%) as a yellow solid.

reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | 4-nitrophenyl chloroformate | 812 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | 6-amino-2N-Boc-1,2,3,4-tetrahydroisoquinoline | 1.00 g | NC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H20N2O2
solvent | pyridine | 0.33 mL | N1=CC=CC=C1 | C5H5N
product | 6-(4-nitro-phenoxycarbonylamino)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 1.46 g, 88% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C21H23N3O6
